US08633206B2
A mixture of (3-methyl-4-(methyl(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methanesulfonic acid (0.400 g, 0.81 mmol), CH2Cl2 (10 mL), and DMF (50 uL) was treated with thionyl chloride and warmed to 40° C. After 1.5 h, the mixture was cooled, treated with toluene (5 mL) and concentrated. The resulting material was triturated with Et2O and dried to afford (3-methyl-4-(methyl(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methanesulfonyl chloride that was used immediately without additional manipulation. MS for C22H27ClN4O4S2 (ESI) (MH)+ m/z=512.

reactant | (3-methyl-4-(methyl(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methanesulfonic acid | 0.81 mmol, 0.400 g | CC1CC(CCC1N(C=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)C)CS(=O)(=O)O | C22H28N4O5S2
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
reactant | DMF | 50 uL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (3-methyl-4-(methyl(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methanesulfonyl chloride | CC1CC(CCC1N(C=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)C)CS(=O)(=O)Cl | C22H27ClN4O4S2
